US06884868B1
A mixture of 4-bromophenol (10 g), 1,6-dibromohexane (49.4 g) and potassium carbonate (9.59 g) in N,N-dimethylformamide (50 ml) was stirred for 4 hours at 60° C. (bath temp.), and then cooled to ambient temperature. To the reaction mixture was added ethyl acetate (200 ml), and the mixture was washed with water (200 ml×2) and brine. The organic layer was dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give a crude product. The crude product was purified by silica gel chromatography (1:0-1:1 hexane-ethyl acetate) to give 1-bromo-4-(6-bromohexyloxy)benzene (15.61 g).

reactant | 4-bromophenol | 10 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1,6-dibromohexane | 49.4 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 9.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-bromo-4-(6-bromohexyloxy)benzene | 15.61 g | BrC1=CC=C(C=C1)OCCCCCCBr | C12H16Br2O
